* Extracted by KLayout with SG13G2 LVS runset on : 22/03/2026 12:22

.SUBCKT iqmod_mixer_se2diff_tg VSS di_tg_ctrl v_a v_b VDD di_tg_ctrl_n
M$1 v_a di_tg_ctrl v_b \$1 sg13_lv_nmos L=0.13u W=6u AS=1.29p AD=1.29p PS=9.58u
+ PD=9.58u rfmode=0
M$7 v_a di_tg_ctrl_n v_b \$8 sg13_lv_pmos L=0.13u W=18u AS=3.87p AD=3.87p
+ PS=23.58u PD=23.58u rfmode=0
R$13 VDD \$8 ntap1 A=5.88p P=39.2u
R$14 VSS \$1 ptap1 A=4.896p P=32.64u
.ENDS iqmod_mixer_se2diff_tg
